US05246951
6-Acetylbenzoselenazolinone
12 grams (0.09 mol) of aluminum chloride are introduced into a ground-necked flask. 3.1 cm3 (0.04 mol) of dimethylformamide are added dropwise with stirring. After cooling, two grams (0.01 mol) of benzoselenazolinone are added and the mixture is homogenized. It is heated to 70°-80° C. on an oil bath with stirring, and 0.01 to 0.012 mol of acetyl chloride is then added. heating is maintained at a temperature of 80°-90° C. for a time T of approximately 4 h 30 min. The mixture is hydrolyzed on crushed ice. The product is drained, dried, and washed with boiling cyclohexane and recrystallized in toluene.

reactant | aluminum chloride | 0.09 mol, 12 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dimethylformamide | 0.04 mol, 3.1 cm3 | CN(C=O)C | C3H7NO
reactant | benzoselenazolinone | 0.01 mol, two grams | [Se]1(C=NC2=C1C=CC=C2)=O | C7H5NOSe
reactant | acetyl chloride | 0.01 to 0.012 mol | C(C)(=O)Cl | C2H3ClO
product | 6-Acetylbenzoselenazolinone | C(C)(=O)C1=CC2=C(N=C[Se]2=O)C=C1 | C9H7NO2Se
